US08648068B2
260.2 5-Methyl-4-{2-[(R)-(tetrahydro-pyran-3-yl)oxy]-pyridin-3-ylamino}-thieno[2,3-d]pyrimidine-6-carboxylic acid
A mixture of 1.4 g (3.14 mmol) 5-methyl-4-{2-[(R)-(tetrahydro-pyran-3-yl)oxy]-pyridin-3-ylamino}-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester, 20 ml methanol, 7 ml THF and 6.29 ml sodium hydroxid solution (1 M) was stirred at room temperature for 48 hours. Then 6.3 ml hydrochloric acid solution (1M) were added followed by addition of water. The mixture was filtered. The solid was washed with water and diisopropylether and dried in an oven (vacuo).

reactant | 5-methyl-4-{2-[(R)-(tetrahydro-pyran-3-yl)oxy]-pyridin-3-ylamino}-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 3.14 mmol, 1.4 g | COC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O[C@H]2COCCC2)S1)C | C19H20N4O4S
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxid | 1 M, 6.29 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M, 6.3 ml | Cl | ClH
solvent | water | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 5-Methyl-4-{2-[(R)-(tetrahydro-pyran-3-yl)oxy]-pyridin-3-ylamino}-thieno[2,3-d]pyrimidine-6-carboxylic acid | CC1=C(SC=2N=CN=C(C21)NC=2C(=NC=CC2)O[C@H]2COCCC2)C(=O)O | C18H18N4O4S
